US07638515B2
5-Chloro-1H-indazol-4-ylamine
A solution that consists of 5-chloro-4-nitro-1H-indazole (872 mg, 4.41 mmol) is mixed with 150 mg of palladium on carbon (10%) and stirred under hydrogen atmosphere at room temperature. After 45 minutes, the catalyst is suctioned off on one frit and washed with methanol. The filtrate is concentrated by evaporation, and the residue is taken up in 200 ml of ethyl acetate and heated. After renewed suctioning-off and concentration by evaporation of the filtrate, the purification on silica gel is carried out with hexane/ethyl acetate (100-33% hexane). 296 mg (40% of theory) of the product is obtained.

reactant | 5-chloro-4-nitro-1H-indazole | 4.41 mmol, 872 mg | ClC=1C(=C2C=NNC2=CC1)[N+](=O)[O-] | C7H4ClN3O2
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | 5-Chloro-1H-indazol-4-ylamine | ClC=1C(=C2C=NNC2=CC1)N | C7H6ClN3
